* C:\Users\Sam\Documents\Github\Patrick Yoho\Patrick-TS-Module\Sim\plumes_sim.asc
* Generated by LTspice 24.1.10 for Windows.
V1 +9V 0 9
V3 IN 0 SINE(0 0.2 1000) AC 1
D1 N007 N003 1N4148
D2 N003 N002 1N4148
C3 N002 N003 56pF
R6 N003 N001 47K
R7 N002 N001 500K
C4 N003 N006 100nF
R8 0 N006 4.7K
R9 N010 N002 1K
C5 N009 N008 470nF
R11 N009 N010 10K
R12 N004 N009 10K
C6 N010 0 47nF
R13 N010 0 10K
R14 N005 N004 1K
R15 N013 N005 1K
R16 N014 N018 10
R17 N018 0 100K
C8 N019 N018 1µF
X§U1 N015 N003 +9V -9V N002 level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg ;§pnba In+)In-)V+)V-)OUT
X§U2 N010 N004 +9V -9V N005 level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg ;§pnba In+)In-)V+)V-)OUT
X§U3 N017 N011 +9V -9V N011 level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg ;§pnba In+)In-)V+)V-)OUT
R1 N017 0 10Meg
R2 IN 0 1Meg
R3 N016 IN 1K
C1 N017 N016 33nF
V4 0 -9V 9
C9 N015 N011 1µF
R4 N015 0 10K
C2 N005 N004 56pF
C7 N014 N013 1µF
R5 N019 0 1K
X§U4 N019 N012 +9V -9V N012 level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg ;§pnba In+)In-)V+)V-)OUT
C10 P001 N012 10µF
R18 OUT P001 100
R19 OUT 0 100K
D3 N002 N007 1N4148
R10 0 N008 330
.model D D
.lib C:\Users\Sam\AppData\Local\LTspice\lib\cmp\standard.dio
;.tran 0 1 0.99
.ac dec 10000 100 20K
.lib UniversalOpAmp2.lib
.backanno
.end
